US07265120B2
Under nitrogen atmosphere, a solution of Na2CO3 (138 mg) in water (0.8 ml) was added to a suspension of 3-amino-5-chloro-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarboxamide (100 mg), 2-thienylboronic acid (104 mg) and tetrakis(triphenylphosphine)palladium (11.3 mg) in dioxane (2 ml) and the mixture was stirred at 100-105° C. for 4 hours. After addition of water (10 ml), a precipitate was collected by filtration and purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (40:60 v/v) to give 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-(2-thienyl)-2-pyrazinecarboxamide as a solid (85 mg).

reactant | Na2CO3 | 138 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-amino-5-chloro-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarboxamide | 100 mg | NC=1C(=NC(=C(N1)Cl)C1=NN(C(C=C1)=O)C(C)C)C(=O)N | C12H13ClN6O2
reactant | 2-thienylboronic acid | 104 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
solvent | water | 0.8 ml | O | H2O
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 11.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 10 ml | O | H2O
product | 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-(2-thienyl)-2-pyrazinecarboxamide | 85 mg | NC=1C(=NC(=C(N1)C=1SC=CC1)C1=NN(C(C=C1)=O)C(C)C)C(=O)N | C16H16N6O2S
